US07226644B2
After 1-(3-hydroxy-1-hexynyl)-2,3,4-trifluorobenzene was dissolved in ethanol, 5% palladium carbon (50% in water) was added thereto, and stirred for 6 hours at a hydrogen pressure of 0.5 MPa, and the mixture was left to stand overnight. After palladium carbon was removed by filtration, the solvent was evaporated under a reduced pressure to obtain 1-(3-hydroxy-1-hexyl)-2,3,4-trifluorobenzene.

reactant | 1-(3-hydroxy-1-hexynyl)-2,3,4-trifluorobenzene | OC(C#CC1=C(C(=C(C=C1)F)F)F)CCC | C12H11F3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 1-(3-hydroxy-1-hexyl)-2,3,4-trifluorobenzene | OC(CCC1=C(C(=C(C=C1)F)F)F)CCC | C12H15F3O
